US05589492
3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-chloropropanamide
A mixture of methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-chloropropanoate (2.36 g), tetrahydrofuran (40 mL), methanol (40 mL) and aqueous ammonia solution (specific gravity 0.88; 40 mL) was stirred at room temperature for 2.5 hrs. The organic solvents were evaporated in vacuo and the residue was diluted with water (1 L) and extracted with dichloromethane (3×400 mL). The combined dichloromethane layers were washed with dilute hydrochloric acid solution (2M; 400 mL), water (1 L), brine (1 L), dried (MgSO4) and evaporated. The residue was chromatographed on silica gel with 1.5% methanol in dichloromethane as eluent to afford the title compound, mp 149°-151° C. after recrystallisation from dichloromethane-hexane.

reactant | methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-chloropropanoate | 2.36 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)Cl | C20H21ClN2O4
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | ammonia | 40 mL | N | H3N
solvent | methanol | 40 mL | CO | CH4O
product | 3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-chloropropanamide | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)N)Cl | C19H20ClN3O3
